US04196208
Preparation of 1-(dimethylcarbamoyl)ethyl 4-(hexadecylamino)-benzoate
To a solution of 3 g. (6.32 m moles) 1-(chlorocarbonyl)ethyl 4-(hexadecylamino)benzoate in 25 ml. pyridine is added 0.6 g. (7.5 m moles) dimethylamine hydrochloride. The solution is stirred at 50°0 C. for 15 hours, then evaporated to dryness. The residue is partitioned between 50 ml. water and 50 ml. methylene chloride. The layers are separated, and the aqueous solution is washed once more with 50 ml. methylene chloride. The combined organic solutions are dried, condensed, and the residue is crystallized from acetonitrile to yield the title compound as colorless crystals.

reactant | 1-(chlorocarbonyl)ethyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)C(=O)Cl)C=C1 | C26H42ClNO3
reactant | dimethylamine hydrochloride | Cl.CNC
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(dimethylcarbamoyl)ethyl 4-(hexadecylamino)-benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)C(N(C)C)=O)C=C1 | C28H48N2O3
